US06291514B1
Methyl 5-methylthio-4-[2-(3-quinolylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate: Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate (90 mg, 0.28 mmol) was allowed to react with amino(3-quinolylamino)methane-1-thione (59.1 mg) as described in Example 154, step (a) to give 107.5 mg (78% yield) of methyl 5-methylthio-4-[2-(3-quinolylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate hydrobromide. 1H NMR (DMSO-d6, 300 MHz) δ 2.75 (s, 3H), 3.84 (s, 3H), 7.52 (s, 1H), 7.92-8.05 (m, 2H), 8.22 (s, 1H), 9.22 (m, 2H); Mass Spectrum (ESI) m/z calcd. for C19H15N3O2S3, 413.54 (M+H), found 414.1.

reactant | Methyl 5-methylthio-4-[2-(3-quinolylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate | CSC1=C(C=C(S1)C(=O)OC)C=1N=C(SC1)NC=1C=NC2=CC=CC=C2C1 | C19H15N3O2S3
reactant | Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate | 0.28 mmol, 90 mg | BrCC(=O)C=1C=C(SC1C)C(=S)OC | C9H9BrO2S2
reactant | amino(3-quinolylamino)methane-1-thione | 59.1 mg | NC(=S)NC=1C=NC2=CC=CC=C2C1 | C10H9N3S
product | methyl 5-methylthio-4-[2-(3-quinolylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate hydrobromide | 107.5 mg, 78% yield | Br.CSC1=C(C=C(S1)C(=O)OC)C=1N=C(SC1)NC=1C=NC2=CC=CC=C2C1 | InChI=1S/C19H15N3O2S3.BrH/c1-24-17(23)16-8-13(18(25-2)27-16)15-10-26-19(22-15)21-12-7-11-5-3-4-6-14(11)20-9-12;/h3-10H,1-2H3,(H,21,22);1H
